US05077409
5-Methyl-3-[[2-[[[4-(tetradecyloxy)phenyl]acetyl]amino]phenyl]methyl]thiazolium bromide
A mixture of 3.0 g of N-[2-(bromomethyl)phenyl]-4-(tetradecyloxy)benzeneacetamide and 2.88 g of 5-methylthiazole in 25 ml of toluene is heated at reflux under argon for 2.5 hours. The mixture is poured into 200 ml of ether, cooled, the solid collected, washed with ether and dried to give 3.2 g of the desired product as a white powder, m.p. 124°-127° C.

reactant | N-[2-(bromomethyl)phenyl]-4-(tetradecyloxy)benzeneacetamide | 3.0 g | BrCC1=C(C=CC=C1)NC(CC1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | C29H42BrNO2
reactant | 5-methylthiazole | 2.88 g | CC1=CN=CS1 | C4H5NS
reactant | ether | 200 ml | CCOCC | C4H10O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Methyl-3-[[2-[[[4-(tetradecyloxy)phenyl]acetyl]amino]phenyl]methyl]thiazolium bromide | 3.2 g | [Br-].CC1=C[N+](=CS1)CC1=C(C=CC=C1)NC(CC1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | InChI=1S/C33H46N2O2S.BrH/c1-3-4-5-6-7-8-9-10-11-12-13-16-23-37-31-21-19-29(20-22-31)24-33(36)34-32-18-15-14-17-30(32)26-35-25-28(2)38-27-35;/h14-15,17-22,25,27H,3-13,16,23-24,26H2,1-2H3;1H
